US08389550B2
b) N-Isopropyl-6-[2-(5-methyl-3-phenyl-isoxazol-4-yl)-ethyl]-nicotinamide
A solution of trimethyl aluminium (2 M in toluene, 0.32 mL, 0.65 mmol) was added dropwise to a solution of isopropylamine (38 mg, 0.65 mmol) in dioxane (1.5 mL) under argon and at room temperature. After 1 h a solution of 6-[2-(5-methyl-3-phenyl-isoxazol-4-yl)-ethyl]-nicotinic acid (50 mg, 0.16 mmol) in dioxane (1.5 mL) was added and the reaction mixture warmed to 90° C. After 15 h, the reaction mixture was cooled and carefully diluted with Seignette salt solution (0.5 mL). The mixture was filtered, the filter cake washed with dichloromethane, then the combined filtrates were concentrated. Purification by chromatography (silica, dichloromethane:methanol 100:0 to 96:4) afforded the title compound (45 mg, 79%) as a light yellow oil. MS: m/e=350.5 [M+H]+.

reactant | trimethyl aluminium | 0.65 mmol, 2 M, 0.32 mL | C[Al](C)C
reactant | isopropylamine | 0.65 mmol, 38 mg | C(C)(C)N | C3H9N
reactant | 6-[2-(5-methyl-3-phenyl-isoxazol-4-yl)-ethyl]-nicotinic acid | 0.16 mmol, 50 mg | CC1=C(C(=NO1)C1=CC=CC=C1)CCC1=NC=C(C(=O)O)C=C1 | C18H16N2O3
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | Seignette salt | 0.5 mL | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
product | N-Isopropyl-6-[2-(5-methyl-3-phenyl-isoxazol-4-yl)-ethyl]-nicotinamide | 45 mg, 79% | C(C)(C)NC(C1=CN=C(C=C1)CCC=1C(=NOC1C)C1=CC=CC=C1)=O | C21H23N3O2
